US06982274B2
N-[3-(3-Fluorophenyl)-1H-5-indazolyl]methanesulfonamide
A solution of 50 mg of tert-butyl 5-amino-3-(3-fluorophenyl)-1H-1-indazolecarboxylate produced in Production Example I-26 in 2 ml tetrahydrofuran were added 30 μl of triethylamine and 15 μl of methanesulfonyl chloride, and the mixture was stirred at room temperature for 10 hours. The reaction mixture was diluted with water and was extracted with ethyl acetate. The organic layer was sequentially washed with 1 N hydrochloric acid, water, saturated aqueous sodium hydrogencarbonate solution and brine, dried over anhydrous magnesium sulfate and the solvent was removed. The resulting crude crystals were recrystallized from ethyl acetate-diethyl ether, to give 26 mg of the title compound as a colorless powder.

reactant | tert-butyl 5-amino-3-(3-fluorophenyl)-1H-1-indazolecarboxylate | 50 mg | NC=1C=C2C(=NN(C2=CC1)C(=O)OC(C)(C)C)C1=CC(=CC=C1)F | C18H18FN3O2
reactant | triethylamine | 30 μl | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 15 μl | CS(=O)(=O)Cl | CH3ClO2S
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N-[3-(3-Fluorophenyl)-1H-5-indazolyl]methanesulfonamide | 26 mg | FC=1C=C(C=CC1)C1=NNC2=CC=C(C=C12)NS(=O)(=O)C | C14H12FN3O2S
